US07727985B2
4,6,6-trimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide
The desired compound was prepared according to Method B from 6-chloro-9H-β-carboline-8-ylamine and 4,6,6-trimethyl-morpholine-3-carboxylic acid in 61% yield.

reactant | 6-chloro-9H-β-carboline-8-ylamine | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)N | C11H8ClN3
reactant | 4,6,6-trimethyl-morpholine-3-carboxylic acid | CN1C(COC(C1)(C)C)C(=O)O | C8H15NO3
product | 4,6,6-trimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 61% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)C | C19H21ClN4O2
